US04698339
7-(1-Hydroxy-3-thiacyclopentyl)-7-phenylthio-8-oxo-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane
In a nitrogen atmosphere at -78° C., 15 ml of 15% n-butyl lithium/hexane is added to a solution of 3.4 ml of diisopropylamine in 30 ml of dry tetrahydrofuran. To the solution is added a solution of 1.55 g of 8-oxo-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane in 10 ml of dry tetrahydrofuran over a period of 10 minutes and the mixture is stirred for 15 minutes. To the mixture is added a solution of 2.18 g of diphenyl disulfide in 10 ml of dry tetrahydrofuran over a period of 10 minutes and the mixture is stirred for 15 minutes, followed by addition of 2.04 g of 3-thiacyclopentanone over a period of 5 minutes and stirring for 30 minutes. The reaction mixture is poured into acetic acid (2 ml)-water (60 ml) with ice-cooling and the organic layer is separated, followed by extraction of the aqueous layer with ethyl acetate. The organic layers are combined, washed with 0.5N aqueous sodium hydroxide and water in that order and dried over Na2SO4, and the solvent is distilled off. The residue is subjected to silica gel column chromatography (hexane-ethyl acetate=3:1, 1:1) to give 3.03 g of the title compound as an oil.

reactant | n-butyl lithium hexane | 15 ml | C(CCC)[Li].CCCCCC
reactant | diisopropylamine | 3.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | 8-oxo-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane | 1.55 g | O=C1CC2CCOC(N12)(C)C | C8H13NO2
reactant | diphenyl disulfide | 2.18 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | 3-thiacyclopentanone | 2.04 g | C1(CSCC1)=O | C4H6OS
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 60 ml | O | H2O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 7-(1-Hydroxy-3-thiacyclopentyl)-7-phenylthio-8-oxo-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane | 3.03 g | OC1(CSCC1)C1(C2CCOC(N2C1=O)(C)C)SC1=CC=CC=C1 | C18H23NO3S2
